US06673797B1
(1) Preparation of 1-Benzenesulfonyl-5-methylthio-2-([1,3,4]oxadiazol-2-yl)-1H-indole
To a solution of 1-benzenesulfonyl-5-methylthio-1H-indole-2-carboxylic acid methyl ester (370 mg) in ethanol (12 ml), hydrazine monohydrate (0.55 ml) was added at 15 to 30° C. and the mixture was heated under reflux for 13 hours. Further, to the mixture was added hydrazine monohydrate (0.55 ml) and the mixture was heated under reflux for 5 hours. The reaction solution was concentrated under reduced pressure. To the resulting residue was added water, and the insolubles were filtered off and washed with water and ether. To the filtered crude product was added formic acid (9 ml) and the mixture was heated under reflux for 1 hour. The reaction solution was concentrated under reduced pressure. To the resulting residue was added ethyl acetate and the insolubles were filtered off and washed with ethyl acetate. The filtrate was concentrated under reduced pressure to obtain 330 mg of the crude product of 1-benzenesulfonyl-5-methylthio-1H-indole-2-carboxylic acid-N′-formylhydrazide. A mixture solution of 509 mg of the crude product thus obtained and phosphorus oxychloride (15 ml) was stirred at 15 to 30° C. for 6 hours. The reaction solution was concentrated under reduced pressure. The resulting residue was separated using silica gel column chromatography (ethyl acetate:hexane=1:2) to obtain 265 mg of the desired product.

reactant | 1-benzenesulfonyl-5-methylthio-1H-indole-2-carboxylic acid methyl ester | 370 mg | COC(=O)C=1N(C2=CC=C(C=C2C1)SC)S(=O)(=O)C1=CC=CC=C1 | C17H15NO4S2
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrazine monohydrate | 0.55 ml | O.NN
reactant | hydrazine monohydrate | 0.55 ml | O.NN
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 1-Benzenesulfonyl-5-methylthio-2-([1,3,4]oxadiazol-2-yl)-1H-indole | 265 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)SC)C=1OC=NN1 | C17H13N3O3S2
